US07915250B2
To a solution of commercially available 1,4-bis(phenylmethyl)piperazine-2,5-dione (2.0 g, 6.8 mmol) in dry THF (50 mL) at −78° C. was added lithium diisopropylamide (2.0 M solution in heptane/THF/ethylbenzene, 3.4 mL, 6.8 mmol). The resulting reddish brown suspension was stirred for 23 min at −78° C., and then a solution of 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate (770 mg, 4.5 mmol) in THF (10 mL) was added over 30 min by syringe pump. The mixture became a bright yellow solution as it was allowed to warm to room temperature over 3 hours. The mixture was quenched with saturated aqueous ammonium chloride. Water was added to dissolve precipitated salts, and the resulting mixture was extracted twice with ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography (60% ethyl acetate:40% hexanes) to provide 1,1-dimethylethyl 3-[3,6-dioxo-1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate as a colorless foam (1.04 g, 2.23 mmol, 50% yield). 1H NMR. (400 MHz, CDCl3): 7.39-7.29 (m, 7H), 7.23-7.19 (m, 3H), 5.34 (d, 1H), 4.82 (d, 1H), 4.58 (d, 1H), 4.37 (d, 1H), 4.37 (d, 1H), 4.22 (d, 1H), 4.15 (s, 1H), 4.08 (d, 1H), 3.97 (d, 1H), 3.75 (d, 1H), 3.74 (d, 1H), 3.67 (d, 1H), 3.64 (br s, 1H), 1.43 (s, 9H).

reactant | 1,4-bis(phenylmethyl)piperazine-2,5-dione | 6.8 mmol, 2.0 g | C1(=CC=CC=C1)CN1C(CN(C(C1)=O)CC1=CC=CC=C1)=O | C18H18N2O2
reactant | lithium diisopropylamide | 6.8 mmol, 2.0 M, 3.4 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,1-dimethylethyl 3-oxoazetidine-1-carboxylate | 4.5 mmol, 770 mg | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 3-[3,6-dioxo-1,4-bis(phenylmethyl)piperazin-2-yl]-3-hydroxyazetidine-1-carboxylate | 2.23 mmol, 1.04 g, 50% yield | O=C1C(N(C(CN1CC1=CC=CC=C1)=O)CC1=CC=CC=C1)C1(CN(C1)C(=O)OC(C)(C)C)O | C26H31N3O5
